US07875618B2
Intermediate 1D: 2-Bromo-1-(3-methoxy-2-nitro-phenyl)-4-methyl-1H-imidazole
2-bromo-4-methyl imidazole (3.7 g, 23.4 mmol) and 2-fluoro-6-methoxy-nitrobenzene were dissolved in DMF (80 mL). To this was then added potassium carbonate (6.3 g, 46.8 mmol). The reaction was heated to 90° C. for 16 hrs then poured into water and extracted with ethyl acetate. The organic layer was separated and washed with water then brined, dried over magnesium sulfate and filtered. The solvent was removed under reduced pressure and the crude purified by flash chromatography on silica gel in 20:1 ethyl acetate/methylene chloride. A tan solid (2.6 g) was recovered. MS (ES) m/z 311.9 [M+1]+

reactant | 2-bromo-4-methyl imidazole | 23.4 mmol, 3.7 g | BrC=1NC=C(N1)C | C4H5BrN2
reactant | 2-fluoro-6-methoxy-nitrobenzene | FC1=C(C(=CC=C1)OC)[N+](=O)[O-] | C7H6FNO3
reactant | potassium carbonate | 46.8 mmol, 6.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-1-(3-methoxy-2-nitro-phenyl)-4-methyl-1H-imidazole | BrC=1N(C=C(N1)C)C1=C(C(=CC=C1)OC)[N+](=O)[O-] | C11H10BrN3O3
